US04769370
Step G: 1,2-Dichloro-3-hydroxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran
A mixture of 1,2-dichloro-3-methoxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran (0.6 g) and pyridine hydrochloride (7 g) was heated with stirring at 190° for 1/2 hour then poured into ice water. The solid which separated was filtered, rinsed with water, dried and used in Step H without further purification.

reactant | 1,2-dichloro-3-methoxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran | 0.6 g | ClC1=C(C(=CC=2OC3(C(C21)=CC(CC3)=O)CCC)OC)Cl | C16H16Cl2O3
reactant | pyridine hydrochloride | 7 g | Cl.N1=CC=CC=C1
product | 1,2-Dichloro-3-hydroxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran | ClC1=C(C(=CC=2OC3(C(C21)=CC(CC3)=O)CCC)O)Cl | C15H14Cl2O3
